US03956269
Preparation of Di-[4-(p-tolyloxycarbonyl)butyryl] Peroxide ##SPC21##
To a vigorously stirred solution of 1.7 g. (0.025 mole) of 50% hydrogen peroxide and 22.7 g. (0.057 mole) of aqueous 10% sodium hydroxide at 10°-14°C was slowly added a solution of 4-(p-tolyloxycarbonyl)-butyryl chloride in 50 ml. of ether. The resulting reaction mixture was stirred for an additional three hours. After a work-up similar to that in Example I 7.5 g. (theory, 10.0 g.) of liquid was obtained. The assay according to active oxygen content was 81.5% and the corrected yield was 61.2%. After being stored at 0°C for several days the product solidified and had a melting point of 24°-30°C.

reactant | hydrogen peroxide | 0.025 mole | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(p-tolyloxycarbonyl)-butyryl chloride | C1(=CC=C(C=C1)OC(=O)CCCC(=O)Cl)C | C12H13ClO3
reactant | oxygen | O=O | O2
solvent | ether | CCOCC | C4H10O
product | Di-[4-(p-tolyloxycarbonyl)butyryl] Peroxide | yield was 61.2% | C1(=CC=C(C=C1)OC(=O)CCCC(=O)OOC(CCCC(=O)OC1=CC=C(C=C1)C)=O)C | C24H26O8
